US04154595
N-(2,3-dihydroxypropyl) chloroacetamide
A solution of 25 grams (g.) (0.27 mole) of 3-amino-1,2-propanediol in 50 milliliter (ml.) methyl alcohol is added slowly to a solution of methyl chloroacetate, 33.0 g. (0.30 mole) in 50 ml. methyl alcohol at 5°-10° C. The solution is stirred for five hours at 5°-10° C. and is then allowed to stand in the cold for four days. The solution is then evaporated in vacuum to leave 43 g. of the desired product, a viscous oil, nD30 1.5148. (95% yield).

reactant | 3-amino-1,2-propanediol | 0.27 mole, 25 grams | NCC(CO)O | C3H9NO2
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
solvent | methyl alcohol | 50 milliliter | CO | CH4O
product | N-(2,3-dihydroxypropyl) chloroacetamide | 95% yield | OC(CNC(CCl)=O)CO | C5H10ClNO3
